US07465726B2
5-Amino-3-methoxyindazole-1-carboxylic acid tert-butyl ester
3-Methoxy-5-nitroindazole-1-carboxylic acid tert-butyl ester (0.33 g, 1.11 mmol) and palladium (10% wt) on carbon (0.24 g, 20% wt) were dissolved in EtOAc (25 mL). The flask was evacuated and filled with N2 (×5), then evacuated and filled with hydrogen (×10) and left over a weekend. The mixture was filtered over celite and the solvents removed in vacuo. Purification by column chromatography on silica gel (Jones, 20 g) loading in DCM and eluting in 5:1 Hexanes:EtOAc stepwise to 7:3 Hexanes:EtOAc yielded the title compound as a white powder. 1H NMR (400 MHz, CDCl3): δ=1.69 (s, 9H), 3.73 (brs, 2H), 4.15 (s, 3H), 6.85 (d, J=2.0 Hz, 1H), 6.91 (dd, J=8.8, 2.4 Hz, 1H), 7.74 (brs, 1H). MS (ES+): m/z 164.3 (65) [MH+](fragment ion, loss of Boc group).

reactant | 3-Methoxy-5-nitroindazole-1-carboxylic acid tert-butyl ester | 1.11 mmol, 0.33 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)[N+](=O)[O-])OC | C13H15N3O5
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | palladium | [Pd] | Pd
product | 5-Amino-3-methoxyindazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)N)OC | C13H17N3O3
